US06818767B2
In analogy to example 6 there was prepared: on reaction of 2-methyl-4-pyrrolidin-1-yl-quinolin-7-ol with 3-bromomethyl-2-chloro-6-trifluoromethyl-pyridine, whereby the product was isolated as free base, 7-(2-chloro-6-trifluoromethyl-pyridin-3-ylmethoxy)-2-methyl-4-pyrrolidin-1-yl-quinoline as a white solid. ISP mass spectrum, m/e: 422.2 (M+1 calculated for C21H19CIF3N3O: 422).

reactant | 2-methyl-4-pyrrolidin-1-yl-quinolin-7-ol | CC1=NC2=CC(=CC=C2C(=C1)N1CCCC1)O | C14H16N2O
reactant | 3-bromomethyl-2-chloro-6-trifluoromethyl-pyridine | BrCC=1C(=NC(=CC1)C(F)(F)F)Cl | C7H4BrClF3N
product | 7-(2-chloro-6-trifluoromethyl-pyridin-3-ylmethoxy)-2-methyl-4-pyrrolidin-1-yl-quinoline | ClC1=NC(=CC=C1COC1=CC=C2C(=CC(=NC2=C1)C)N1CCCC1)C(F)(F)F | C21H19ClF3N3O
